US07250522B2
To a mixture of 2-bromo-4-fluorophenol (24.7 g, 129 mmol), tetrabutylammonium iodide (4.8 g, 13.0 mmol), potassium carbonate (35.9 g, 260 mmol) and N,N-dimethylformamide (390 mL), benzyl bromide (23.5 g, 137 mmol) was added at room temperature and stirred for 1.5 hours. The reaction mixture was poured into a mixture of ethyl acetate and saturated aqueous sodium chloride, and then extracted with ethyl acetate. The organic phase was washed twice with saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=90:10–80:20) to give 1-benzyloxy-2-bromo-4-fluorobenzene (33.0 g, 90%).

reactant | 2-bromo-4-fluorophenol | 129 mmol, 24.7 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 260 mmol, 35.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 137 mmol, 23.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium chloride | [Cl-].[Na+]
catalyst | tetrabutylammonium iodide | 13.0 mmol, 4.8 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 390 mL | CN(C=O)C | C3H7NO
product | 1-benzyloxy-2-bromo-4-fluorobenzene | 33.0 g, 90% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)F)Br | C13H10BrFO
